US07141586B2
cis-4-{[2-(4-methylsulfanyl-phenoxy)-pyridine-3-carbonyl]-amino}-cyclohexanecarboxylic acid benzyl ester (4.35 g, 9.13 mmol) was dissolved in a solution of 4.4% formic acid in methanol (100 ml) and dimethylformamide (25 ml) and this was added to a suspension of palladium black (5 g) in 4.4% formic acid in methanol (300 ml) at room temperature under nitrogen. The mixture was stirred for 2.5 h, then filtered through arbocel washing with methanol (4×200 ml). The filtrates were concentrated under reduced pressure and the residue was azeotroped with toluene (2×50 ml). The residue was then diluted with water (50 ml) and basified to pH10 with 1M sodium hydroxide pellets. The aqueous phase was extracted with diethylether (2×50 ml) then acidified to pH1 with concentrated hydrochloric acid. After extraction with diethylether (5×50 ml) the combined organic extracts were washed with water (20 ml), dried over MgSO4 and the solvent removed under reduced pressure to give cis-4-{[2-(4-methylsulfanyl-phenoxy)-pyridine-3-carbonyl]-amino}-cyclohexanecarboxylic acid (2.7 g) as a white solid.

reactant | cis-4-{[2-(4-methylsulfanyl-phenoxy)-pyridine-3-carbonyl]-amino}-cyclohexanecarboxylic acid benzyl ester | 9.13 mmol, 4.35 g | C(C1=CC=CC=C1)OC(=O)[C@@H]1CC[C@@H](CC1)NC(=O)C=1C(=NC=CC1)OC1=CC=C(C=C1)SC | C27H28N2O4S
solvent | formic acid | C(=O)O | CH2O2
solvent | methanol | 100 ml | CO | CH4O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium black | 5 g | [Pd] | Pd
product | cis-4-{[2-(4-methylsulfanyl-phenoxy)-pyridine-3-carbonyl]-amino}-cyclohexanecarboxylic acid | 2.7 g | CSC1=CC=C(OC2=NC=CC=C2C(=O)N[C@H]2CC[C@H](CC2)C(=O)O)C=C1 | C20H22N2O4S
